US08445510B2
5-Bromo-3-[1-(2-chloro-6-ethoxy-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine
To a cold (−78° C.) solution of 5-Bromo-3-[(2-chloro-6-ethoxy-3-fluorophenyl)-methoxymethyl]-1H-pyrrolo[2,3-b]pyridine (3.0 g, 7.2 mmol) in THF (30 mL) was added BF3.OEt2 (7.1 mL, 56.3 mmol). The reaction mixture was stirred for 1 h, and 2M solution of dimethylzinc in toluene (28 mL, 56 mmol) was added dropwise. The reaction mixture was stirred for 12 h at 50° C. and was quenched with saturate aq. ammonium chloride. The organic layer was separated and aqueous layer was extracted with ethyl acetate (2×30 mL). The combined organic phase was washed with brine, dried (Na2SO4) and concentrated to give a yellowish residue. The residue was adsorbed on silica and purified (100% DCM→5% methanol/DCM) by small pad of silica. The resulting solid was recrystallized with diisopropyl ether to give the title compound. 1H NMR (CDCl3, 400 MHz): δ=1.25 (t, 3H, J=7.0 Hz), 1.79 (d, 3H, J=7.0 Hz), 3.74 (bs, 1H), 3.96 (q, 1H, J=7.0 Hz), 5.05 (q, 1H, J=7.0 Hz), 6.66-6.69 (m, 1H), 6.97 (t, 1H, J=9.0 Hz), 7.69 (s, 1H), 8.25 (s, 1H), 9.24 (s, 1H).

reactant | 5-Bromo-3-[(2-chloro-6-ethoxy-3-fluorophenyl)-methoxymethyl]-1H-pyrrolo[2,3-b]pyridine | 7.2 mmol, 3.0 g | BrC=1C=C2C(=NC1)NC=C2C(OC)C2=C(C(=CC=C2OCC)F)Cl | C17H15BrClFN2O2
reactant | BF3.OEt2 | 56.3 mmol, 7.1 mL | B(F)(F)F.CCOCC
reactant | dimethylzinc | C[Zn]C
reactant | toluene | 56 mmol, 28 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Bromo-3-[1-(2-chloro-6-ethoxy-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)NC=C2C(C)C2=C(C(=CC=C2OCC)F)Cl | C17H15BrClFN2O
